US07544688B2
C: 4,6-Dihydroxy-quinazoline-2-carboxylic acid amide
4,6-Dihydroxy-quinazoline-2-carboxylic acid ethyl ester (11 mmol) is dissolved in methanol (50 ml) containing ammonia (4N). The mixture is stirred for 3 hours and the solid material formed is filtered off. A pale powder with mp. 305° C. (decomposition) is obtained.

reactant | 4,6-Dihydroxy-quinazoline-2-carboxylic acid ethyl ester | 11 mmol | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)O)O | C11H10N2O4
reactant | ammonia | 4N | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 4,6-Dihydroxy-quinazoline-2-carboxylic acid amide | OC1=NC(=NC2=CC=C(C=C12)O)C(=O)N | C9H7N3O3
